US06977267B2
(E)-4-[3-Acetyl-1-(3,5-dichlorophenyl)-2,5-dioxoimidazolidin-4-ylidenemethyl]-benzonitrile
A mixture of 3-(3,5-dichlorophenyl)-2,4-dioxoimidazolidine-1-carboxylic acid tert-butyl ester (3.45 g, 10 mmol) (Preparation 11), 4-cyanobenzaldehyde (1.31 g, 10 mmol) and NaOAc (0.82 g, 10 mmol) was refluxed for 3 h in Ac2O (50 ml). The solid obtained after concentration was taken into a mixture of ice/water and DCM. The organic layer was dried and concentrated to yield a solid (4.4 g) which was chromatographed over silica gel (eluent: DCM) to yield 4-[3-acetyl-1-(3,5-dichlorophenyl)-2,5-dioxoimidazolidin-4-ylidenemethyl]-benzonitrile as a white solid (1.25 g). mp=212° C. 1H NMR (CDCl3): 8.52 (1H, s), 7.6-7.75 (4H, m), 7.43 (1H, m), 7.37 (2H, m), 2.78 (3H, s).

reactant | 3-(3,5-dichlorophenyl)-2,4-dioxoimidazolidine-1-carboxylic acid tert-butyl ester | 10 mmol, 3.45 g | C(C)(C)(C)OC(=O)N1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C14H14Cl2N2O4
reactant | 4-cyanobenzaldehyde | 10 mmol, 1.31 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | NaOAc | 10 mmol, 0.82 g | CC(=O)[O-].[Na+]
solvent | Ac2O | 50 ml | CC(=O)OC(=O)C | C4H6O3
product | (E)-4-[3-Acetyl-1-(3,5-dichlorophenyl)-2,5-dioxoimidazolidin-4-ylidenemethyl]-benzonitrile | 4.4 g | C(C)(=O)N\1C(N(C(/C1=C\C1=CC=C(C#N)C=C1)=O)C1=CC(=CC(=C1)Cl)Cl)=O | C19H11Cl2N3O3
